US04470973
(e) 1-[N-[3-(Benzoylamino)-2-oxo-4-phenylbutyl]-L-alanyl]-L-proline, monohydrochloride
1-[N-[3-(Benzoylamino)-2-oxo-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, phneylmethyl ester (1.0 g.) is dissolved in absolute ethanol (30 ml.) and 1N hydrochloric acid (2.25 ml.). Palladium-carbon catalyst (10%, 200 mg.) is added and the solution is stirred under an atmosphere of hydrogen overnight. The catalyst is filtered off and the solution is evaporated. The crude product (700 mg.) is combined with 300 mg. of crude product from a previous small scale reaction and passed through a column of LH-20 (1 inch×15 inch) in methanol. The fractions containing the desired product are pooled, evaporated, dissolved in water and filtered. The clear aqueous solution is lyophilized to give 800 mg. of 1-[N-[3-(benzoylamino)-2-oxo-4-phenylbutyl]-L-alanyl]-L-proline, monohydrochloride; [α]D25 =-59.6 (c=1.4, methanol); m.p. 98°-130° (dec.). Tlc (silica gel, n-butanol/acetic acid/water, 4:1:1) Rf =0.44.

reactant | 1-[N-[3-(Benzoylamino)-2-oxo-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline | C(C1=CC=CC=C1)(=O)NC(C(CN([C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C33H35N3O7
reactant | hydrochloric acid | 1N, 2.25 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Palladium-carbon | 200 mg | [C].[Pd]
solvent | methanol | CO | CH4O
product | 1-[N-[3-(Benzoylamino)-2-oxo-4-phenylbutyl]-L-alanyl]-L-proline, monohydrochloride | Cl.C(C1=CC=CC=C1)(=O)NC(C(CN[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)=O)CC1=CC=CC=C1 | InChI=1S/C25H29N3O5.ClH/c1-17(24(31)28-14-8-13-21(28)25(32)33)26-16-22(29)20(15-18-9-4-2-5-10-18)27-23(30)19-11-6-3-7-12-19;/h2-7,9-12,17,20-21,26H,8,13-16H2,1H3,(H,27,30)(H,32,33);1H/t17-,20?,21-;/m0./s1
